US07897609B2
A Parr vessel was charged with 5% platinum on carbon (5.8 g) and a suspension of 1-[(7-bromo-3-nitro[1,5]naphthyridin-4-yl)amino]-2-methylpropan-2-ol (58.00 g) in acetonitrile (800 mL) and methanol (400 mL). The vessel was placed under hydrogen pressure (30 psi, 2.1×105 Pa) for 8 hours. The reaction mixture was filtered through a layer of CELITE filter aid. The filtrate was concentrated under reduced pressure to provide 52.70 g of 1-[(3-amino-7-bromo[1,5]naphthyridin-4-yl)amino]-2-methylpropan-2-ol as a yellow solid.

reactant | 1-[(7-bromo-3-nitro[1,5]naphthyridin-4-yl)amino]-2-methylpropan-2-ol | 58.00 g | BrC1=CN=C2C(=C(C=NC2=C1)[N+](=O)[O-])NCC(C)(O)C | C12H13BrN4O3
catalyst | platinum on carbon | 5.8 g | [Pt] | Pt
solvent | acetonitrile | 800 mL | C(C)#N | C2H3N
solvent | methanol | 400 mL | CO | CH4O
product | 1-[(3-amino-7-bromo[1,5]naphthyridin-4-yl)amino]-2-methylpropan-2-ol | 52.70 g | NC=1C=NC2=CC(=CN=C2C1NCC(C)(O)C)Br | C12H15BrN4O
